US04980470
Synthesis of 7-(3-aminomethyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
To a solution of sodium methoxide prepare from sodium (0.2 g) and absolute methanol (9 ml) was added 7-(3-aminomethyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.5 g) and the mixture in sealed tube was stirred for 86 hours at 140° to 150° C. and then concentrated. Small amount of water was added to the residue, and the solution was adjusted pH 7 with acetic acid and then concentrated. The resulting residue was purified by silica gel column chromatography eluting with chloroform-methanol-concentrated aqueous ammonia (20:6:1) and recrystallized from methanol to give the title compound (40 mg) as pale yellow prisms, mp 225°-228.5° C. (decompd.).

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.2 g | [Na] | Na
reactant | 7-(3-aminomethyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.5 g | NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C18H19F2N3O3
solvent | methanol | 9 ml | CO | CH4O
product | 7-(3-aminomethyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 40 mg | NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C19H22FN3O4
